US05783522
3-Chloro-2-[4-chloro-3-(4,5-bis(methoxycarbonyl)-1,3-dioxolan-2-yl)phenyl]-5-trifluoromethylpyridine (Table 1, Example I.123)
3.0 g of 3-chloro-2-(4-chloro-3-dimethoxymethylphenyl)-5-trifluoromethyl-pyridine, 5.4 g of dimethyl L(+)-tartrate and 100 mg of p-toluenesulfonic acid in 180 ml of anhydrous toluene were refluxed for 10 hours. The solution was cooled and then washed with 50 ml of 10% by weight sodium bicarbonate solution and three times with 50 ml of water each time, dried over sodium sulfate and concentrated. Chromatography on silica gel resulted in 3.0 g (77%) of colorless crystals; melting point: 48°-53° C.

reactant | 3-chloro-2-(4-chloro-3-dimethoxymethylphenyl)-5-trifluoromethyl-pyridine | 3.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(OC)OC | C15H12Cl2F3NO2
reactant | dimethyl L(+)-tartrate | 5.4 g | C(=O)(OC)[C@H](O)[C@@H](O)C(=O)OC | C6H10O6
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-Chloro-2-[4-chloro-3-(4,5-bis(methoxycarbonyl)-1,3-dioxolan-2-yl)phenyl]-5-trifluoromethylpyridine | 3.0 g, 77% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C1OC(C(O1)C(=O)OC)C(=O)OC | C19H14Cl2F3NO6
